US04375477
A solution of 2 mmole of beta-difluoromethyl beta-alanine in 15 ml of dichloromethane is treated with 2 mmole of thionyl chloride at 25° C. for one hour after which 20 ml of ethanol is added. The solution is stirred at 25° C. for one hour and concentrated to afford 3-amino-3-difluoromethylpropionic acid ethyl ester hydrochloride.

reactant | beta-difluoromethyl beta-alanine | 2 mmole | FC(C(N)CC(=O)O)F | C4H7F2NO2
reactant | thionyl chloride | 2 mmole | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-amino-3-difluoromethylpropionic acid ethyl ester hydrochloride | Cl.C(C)OC(CC(C(F)F)N)=O | InChI=1S/C6H11F2NO2.ClH/c1-2-11-5(10)3-4(9)6(7)8;/h4,6H,2-3,9H2,1H3;1H
